US08461083B2
Preparation of 7-(1,1-difluoroethyl)-6-fluoro-2-trifluoromethyl-[1,8]-naphthyridine-3-carboxylic acid
In a similar procedure to Example 1, Stage 2, ethyl 7-(1,1-difluoroethyl)-6-fluoro-2-trifluoromethyl-[1,8]-naphthyridine-3-carboxylate was hydrolysed to the required naphthyridine carboxylic acid as a colourless solid. 1H NMR (CDCl3) δ: 9.15 (1H, s), 8.80 (1H, d), 2.20 (3H, t). Molecular ion: (MH)+325.)

reactant | ethyl 7-(1,1-difluoroethyl)-6-fluoro-2-trifluoromethyl-[1,8]-naphthyridine-3-carboxylate | FC(C)(F)C1=C(C=C2C=C(C(=NC2=N1)C(F)(F)F)C(=O)OCC)F | C14H10F6N2O2
reactant | naphthyridine carboxylic acid | N1=C(C=CC2=CC=CN=C12)C(=O)O | C9H6N2O2
product | 7-(1,1-difluoroethyl)-6-fluoro-2-trifluoromethyl-[1,8]-naphthyridine-3-carboxylic acid | FC(C)(F)C1=C(C=C2C=C(C(=NC2=N1)C(F)(F)F)C(=O)O)F | C12H6F6N2O2
